US07838675B2
i) tert-Butyl [(3S)-1-(aminosulfonyl)pyrrolidin-3-yl]carbamate
To a solution of tert-butyl (3S)-pyrrolidin-3-ylcarbamate (1.3 g) in dioxane (50 ml) was added sulfamide (1.55 g) and the reaction was heated at 110° C. for 18 h. The reaction mixture was then partitioned between DCM (150 nm) and H2O (100 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×150 ml). Organics were combined, dried (MgSO4) and reduced in vacuo to give the subtitle compound as a pale yellow solid. Yield: 1.44 g

reactant | tert-butyl (3S)-pyrrolidin-3-ylcarbamate | 1.3 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | sulfamide | 1.55 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl [(3S)-1-(aminosulfonyl)pyrrolidin-3-yl]carbamate | NS(=O)(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H19N3O4S
